US07786132B2
(i) 6-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)indolin-2-one
A solution of 0.17 g (0.82 mmol)of 6-bromoindolin-2-one, 0.25 g of bis(pinacolato)diboron and 0.20 g (0.98 mmol) of KOAc in 5 mL of DMSO was degassed with Ar sparging for 5 min, then 33 mg (0.041 mmol) of 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride was added and the reaction solution was stirred at 85° C. for 18 h. The reaction solution was poured into 250 mL of EtOAc, washed twice with a 1 M aqueous solution of MgSO4, once with brine, then concentrated in vacuo, and purified by flash chromatography eluting with a linear gradient of 20% EtOAc in hexane to neat EtOAc to yield the title compound. MS (M+H)+ 260.

reactant | 6-bromoindolin-2-one | 0.82 mmol, 0.17 g | BrC1=CC=C2CC(NC2=C1)=O | C8H6BrNO
reactant | bis(pinacolato)diboron | 0.25 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 0.98 mmol, 0.20 g | CC(=O)[O-].[K+]
reactant | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride | 0.041 mmol, 33 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 6-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)indolin-2-one | CC1(OB(OC1(C)C)C1=CC=C2CC(NC2=C1)=O)C | C14H18BNO3
